US06894045B2
8-ethyl-7-(4-heptyl)-1-methyl-3,7-dihydro-1H-purine-2,6-dione (3.30 g, 11.3 mmol), 6-methoxy-2-methyl-3-pyridineboronic acid (2.84 g, 17.0 mmol), copper (II) acetate (3.07 g, 17 mmol), and 4 A powdered molecular sieves (3.0 g) were combined in a 200 mL round bottom flask. CH2Cl2 (25 mL) and pyridine (1.81 mL, 22.6 mmol) were added and the reaction mixture was stirred at rt for 2 days. Additional 6-methoxy-2-methyl-3-pyridineboronic acid (1.50 g, 8.98 mmol) and copper (II) acetate (2.0 g, 11.0 mmol) was added and the reaction mixture was stirred at rt for an additional 2 days. The mixture was poured into a separatory funnel containing saturated aqueous NH4Cl (100 mL) and conc NH4OH (150 mL). The aqueous layer was extracted with EtOAc (4×100 mL). The combined organic layers were washed with brine, dried over MgSO4, filtered, and concentrated. The residue was purified by column chromatography on silica gel (30% ethyl acetate in hexanes then 75% ethyl acetate/25% hexanes to recover starting material) to furnish 8-ethyl-7-(4-heptyl)-3-(4-methoxy-2-methylpyrid-3-yl)-1-methyl-3,7-dihydro-1H-purine-2,6-dione (1.92 g, 41% yield) and recovered starting material (1.72 g, 52% recovery). The product was isolated as a colorless solid: 87-94° C.; 1H NMR (300 MHz, CDCl3) δ 7.45 (d, J=8.4 Hz, 1H), 6.68 (d, J=8.4 Hz, 1H), 4.17-4.08 (m, 1H), 3.95 (s, 3H), 3.47 (s, 3H), 2.73 (q, J=7.3 Hz, 2H), 2.32-2.23 (m, 1H), 2.25 (s, 3H), 1.98-1.80 (m, 3H), 1.30-1.05 (m, 4H), 1.24 (t, J=7.3 Hz, 3H), 0.94-0.88 (m, 6H); LRMS (APCI) m/e 414.6 [(M+H)+, calcd for C22H32N5O3 414.3].

reactant | 8-ethyl-7-(4-heptyl)-1-methyl-3,7-dihydro-1H-purine-2,6-dione | 11.3 mmol, 3.30 g | C(C)C1=NC=2NC(N(C(C2N1C(CCC)CCC)=O)C)=O | C15H24N4O2
reactant | 6-methoxy-2-methyl-3-pyridineboronic acid | 17.0 mmol, 2.84 g | COC1=CC=C(C(=N1)C)B(O)O | C7H10BNO3
reactant | pyridine | 22.6 mmol, 1.81 mL | N1=CC=CC=C1 | C5H5N
reactant | 6-methoxy-2-methyl-3-pyridineboronic acid | 8.98 mmol, 1.50 g | COC1=CC=C(C(=N1)C)B(O)O | C7H10BNO3
reactant | NH4Cl | 100 mL | [NH4+].[Cl-]
reactant | NH4OH | 150 mL | [NH4+].[OH-]
reactant | CH2Cl2 | 25 mL | C(Cl)Cl | CH2Cl2
catalyst | copper (II) acetate | 17 mmol, 3.07 g | C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-]
catalyst | copper (II) acetate | 11.0 mmol, 2.0 g | C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-]
product | 8-ethyl-7-(4-heptyl)-3-(4-methoxy-2-methylpyrid-3-yl)-1-methyl-3,7-dihydro-1H-purine-2,6-dione | 1.92 g, 41% yield | C(C)C1=NC=2N(C(N(C(C2N1C(CCC)CCC)=O)C)=O)C=1C(=NC=CC1OC)C | C22H31N5O3
